US04330539
3β,16α-Dihydroxy-5α-androstan-17-one diacetate (18.8 g) was dissolved in a solution of methylamine in ethanol (33%; 188 ml) and the solution was stirred for 45 min. during which time a colourless solid precipitated. Sodium borohydride (10 g) was added portionwise to the stirred suspension, while keeping the temperature below 26° C. After 11/2 h. water was added and the product was filtered off and washed with water. The crude material was dissolved in methylene dichloride and the solution was washed with water, dried (MgSO4), evaporated, and the residue (16.2 g) was crystallised from ether to give 17β-methylamino-5α-androstane-3β,16α-diol 3-acetate (12.2 g) as prisms, m.p. 197°-199° C., [α]D -18° (C 1.0).

reactant | 3β,16α-Dihydroxy-5α-androstan-17-one diacetate | 18.8 g | C(C)(=O)O.C(C)(=O)O.O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O
reactant | methylamine | CN | CH5N
solvent | ethanol | 188 ml | C(C)O | C2H6O
product | 17β-methylamino-5α-androstane-3β,16α-diol 3-acetate | 12.2 g | C(C)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)NC)O | C22H37NO3
